*TB_DIFFAMP_1_TRAN - Unity-Gain Step Response
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/diffamp_1_lpe.spi
#else
.include ../../../work/xsch/diffamp_1.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p
.param AVDD = {vdda}
.param VCM = 0.6

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD_1V8  VSS  pwl 0 0 10n {AVDD}

VIP  VIP  VSS  sin({VCM} 0.01 1Meg {t_start})
VIN  VIN  VSS  dc {VCM}
VPWR  PWRUP_1V8  VSS  pwl 0 0 {t_start} 0 {{t_start}-1n} {AVDD}
VPWRN  PWRUP_N_1V8  VSS  pwl 0 {AVDD} {t_start} {AVDD} {{t_start}-1n} {0}

* Output load capacitor
CL   VOUT  VSS  0.25f

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.options savecurrents
.save all

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=16
set color0=white
set color1=black
unset askquit
.options savecurrents
.save all

op

optran 0 0 0 1n 1u 0

tran 0.1n {t_end}
write
quit

.endc

.end
